US04822798
Methyl 4-(2-chlorophenyl)-2,6-dimethyl-1,4-dihydro-pyrimidine-5-carboxylate Process C
8.42 g (60 mmols) of 2-chlorobenzaldehyde are boiled with 6.48 ml (60 mmols) of methyl acetoacetate, 6.72 g (60 mmols) of acetamidine HCl and 5.91 g (72 mmols) of anhydrous sodium acetate in 180 ml of ethanol for 18 hours. The mixture is cooled and concentrated. 100 ml of 1N hydrochloric acid and ethyl acetate are added to the resulting evaporation residue and the mixture is shaken thoroughly. The mixture is left to separate, the ethyl acetate phase is extracted by shaking with 100 ml of 1 N hydrochloric acid and the combined aqueous phases are extracted once by shaking with ether and left to separate. The aqueous phase is rendered alkaline with concentrated sodium hydroxide solution and extracted twice by shaking with ethyl acetate. The combined ethyl acetate phases are washed with water, dried and concentrated. The crystalline evaporation residue is recrystallized from acetonitrile. 2.5 g of a slightly yellow substance of melting point 225°-27° C. are obtained.

reactant | 2-chlorobenzaldehyde | 60 mmols, 8.42 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | methyl acetoacetate | 60 mmols, 6.48 ml | C(CC(=O)C)(=O)OC | C5H8O3
reactant | acetamidine HCl | 60 mmols, 6.72 g | Cl.C(C)(=N)N
reactant | sodium acetate | 72 mmols, 5.91 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | Methyl 4-(2-chlorophenyl)-2,6-dimethyl-1,4-dihydro-pyrimidine-5-carboxylate | ClC1=C(C=CC=C1)C1N=C(NC(=C1C(=O)OC)C)C | C14H15ClN2O2
